US07064143B1
4-Hydroxy-1-methyl-1H-indole-2-carboxylic acid
To a solution of ethyl 4-hydroxy-1-methyl-1H-indole-2-carboxylate (0.20 g) in THF (20 mL) was added LiOH.H2O (0.1 g) in water (20 mL) and the resulting two phase solution was stirred at room temperature under nitrogen for 4 h. The reaction mixture was acidified with KHSO4 and the product was extracted into EtOAc, washed with brine, dried over MgSO4, and concentrated. The residue was chromatographed over silica gel with a mixture of EtOAc and hexane to give 0.12 g of the title compound. MS ES (M++H)=192.

reactant | ethyl 4-hydroxy-1-methyl-1H-indole-2-carboxylate | 0.20 g | OC1=C2C=C(N(C2=CC=C1)C)C(=O)OCC | C12H13NO3
reactant | LiOH.H2O | 0.1 g | O[Li].O
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 20 mL | O | H2O
product | 4-Hydroxy-1-methyl-1H-indole-2-carboxylic acid | 0.12 g | OC1=C2C=C(N(C2=CC=C1)C)C(=O)O | C10H9NO3
